US07390910B2
(1S)-2-phenyl-1-(1,3-thiazol-2-yl)ethylamine
To a 55° C. (oil bath) solution of triphenylphosphine (1.6 g, 6.3 mmol) in tetrahydrofuran (10 mL) is added (1S)-2-phenyl-1-(1,3-thiazol-2-yl)ethylazide (contaminated with DPPA, 1.2 g, 5.2 mmol) as a solution in tetrahydrofuran (10 mL). The reaction mixture is allowed to stir for 2 hours at this temperature when aqueous ammonium hydroxide (14 mL) is added. Stirring at 55° C. is continued for 3 hours before the reaction mixture is stored in a −5° C. freezer overnight. The next morning, the reaction mixture is diluted with water (80 mL) and extracted twice with diethyl ether. The combined extracts are washed with 10% aqueous hydrochloric acid (70 mL). The acidic aqueous phase is cooled in an ice-water bath and then basified with 10% aqueous sodium hydroxide to pH 12. The basic phase is then extracted thrice with dichloromethane. The combined extracts are dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to provide a 0.67 g (52% over 2 steps) of a slightly blond oil. MS (ES+): (M+H)=205.0

reactant | triphenylphosphine | 6.3 mmol, 1.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (1S)-2-phenyl-1-(1,3-thiazol-2-yl)ethylazide | 5.2 mmol, 1.2 g | C1(=CC=CC=C1)C[C@@H](C=1SC=CN1)N=[N+]=[N-] | C11H10N4S
reactant | ammonium hydroxide | 14 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 80 mL | O | H2O
product | (1S)-2-phenyl-1-(1,3-thiazol-2-yl)ethylamine | C1(=CC=CC=C1)C[C@@H](C=1SC=CN1)N | C11H12N2S
